US04006009
Preparation of Tetrahydro-1-(5-t-butyl- 1,3,4-thiadiazol-2-yl)-3-methyl-6-[ α-(3,5-dinitrophenyl)acetyloxy]-2(1H)-pyrimidinone
Tetrahydro-1-(5-t-butyl-1,3,4-thiadiazol-2-yl)- 3-methyl-6-hydroxy-2(1H)-pyrimidinone (0.05 mole), triethylamine (0.06 mole) and benzene (50 ml) are charged into a glass reaction vessel equipped with a mechanical stirrer, thermometer and reflux condenser. α-(3,5-Dinitrophenyl)acetyl chloride (0.05 mole) is then added dropwise with stirring. After the addition is completed, the reaction mixture is heated at reflux with continued stirring for a period of about 30 minutes. After this time the reaction mixture is filtered and the filtrate is stripped of solvent under reduced pressure to yield the desired product tetrahydro- 1-(5-t-butyl-1,3,4-thiadiazol-2-yl)-3-methyl-6-[α-(3,5 -dinitrophenyl)acetyloxy] -2 (1H)-pyrimidinone as the residue.

reactant | Tetrahydro-1-(5-t-butyl-1,3,4-thiadiazol-2-yl)- 3-methyl-6-hydroxy-2(1H)-pyrimidinone | 0.05 mole | C(C)(C)(C)C1=NN=C(S1)N1C(N(CCC1O)C)=O | C11H18N4O2S
reactant | triethylamine | 0.06 mole | C(C)N(CC)CC | C6H15N
reactant | α-(3,5-Dinitrophenyl)acetyl chloride | 0.05 mole | [N+](=O)([O-])C=1C=C(C=C(C1)[N+](=O)[O-])CC(=O)Cl | C8H5ClN2O5
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | tetrahydro- 1-(5-t-butyl-1,3,4-thiadiazol-2-yl)-3-methyl-6-[α-(3,5 -dinitrophenyl)acetyloxy] -2 (1H)-pyrimidinone | C(C)(C)(C)C1=NN=C(S1)N1C(N(CCC1OC(CC1=CC(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-])=O)C)=O | C19H22N6O7S
